US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.13 g) and [(5-ethylthiophen-2-yl)methyl](4-isopropylphenyl)amine (1.04 g) as starting materials, 5-benzyloxy-N-[(5-ethylthiophen-2-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.01 g) was obtained.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.13 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | [(5-ethylthiophen-2-yl)methyl](4-isopropylphenyl)amine | 1.04 g | C(C)C1=CC=C(S1)CNC1=CC=C(C=C1)C(C)C | C16H21NS
product | 5-benzyloxy-N-[(5-ethylthiophen-2-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.01 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1SC(=CC1)CC | C34H37NO2S
